US04110333
A mixture of 4.9 parts of 5-chloro-1,3-dihydro-2-oxo-2H-benzimidazole-1-propanol methanesulfonate, 3.7 parts of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one, 3.4 parts of sodium crbonate and 90 parts of N,N-dimethylformamide is stirred and heated for 1 hour at 50°-60° C. The N,N-dimethylformamide is distilled off and the residue is taken up in water. The product is extracted with 4-methyl-2-pentanone. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue solidifies on triturating in 4-methyl-2-pentanone. The product is filtered off and crystallized twice: first from 2-propanol and then from a mixture of N,N-dimethylformamide and water, yielding 1.8 parts (25%) of 8-[3-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one; mp. 233.7° C.

reactant | 5-chloro-1,3-dihydro-2-oxo-2H-benzimidazole-1-propanol methanesulfonate | CS(=O)(=O)OCCCN1C(NC2=C1C=CC(=C2)Cl)=O | C11H13ClN2O4S
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | sodium | [Na] | Na
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 8-[3-(5-chloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | 25% | ClC1=CC2=C(N(C(N2)=O)CCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C1 | C23H26ClN5O2
